US08648069B2
1-(5-Iodo-1H-indazol-1-yl)ethanone
4-Iodo-2-methylaniline (30.2 g, 130 mmol) was dissolved in chloroform (300 mL) and cooled to 5° C. Acetic anhydride (35 mL, 343 mmol) was added dropwise, and the mixture was allowed to warm to ambient temperature. Potassium acetate (4.21 g, 42.9 mmol) and isoamylnitrite (37 mL, 277 mmol) were added, and the mixture was heated to 70° C. overnight. The mixture was neutralized with saturated aqueous sodium bicarbonate and extracted with methylene chloride. The solvents were removed under reduced pressure and the resulting residue was triturated with methanol to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.41 (s, 1H) 8.33 (s, 1H) 8.05-8.21 (m, 1H) 7.90 (dd, J=8.48, 1.70 Hz, 1H) 2.71 (s, 3H).

reactant | 4-Iodo-2-methylaniline | 130 mmol, 30.2 g | IC1=CC(=C(N)C=C1)C | C7H8IN
reactant | Acetic anhydride | 343 mmol, 35 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium acetate | 42.9 mmol, 4.21 g | C(C)(=O)[O-].[K+]
reactant | isoamylnitrite | 277 mmol, 37 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-Iodo-1H-indazol-1-yl)ethanone | IC=1C=C2C=NN(C2=CC1)C(C)=O | C9H7IN2O
